US06468607B1
To 25.0 g of 6-(3,4,5-Trifluorophenyl)-2-hydroxynaphthalene were added 200 ml of dichloromethane and 34.0 g of trifluoromethanesulfonic anhydride. The reaction mixture, was then cooled to a temperature of 5° C. To the reaction mixture was then added a solution of 12.0 g of pyridine in 48 ml of dichloromethane at a rate such that the resulting temperature didn't exceed 20° C. After the termination of dropwise addition, the reaction mixture was returned to room temperature with stirring. To the reaction mixture was then added 200 ml of water. The resulting organic phase was washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was then distilled off. The residue was then purified through silica gel column chromatography (dichloromethane) to obtain 37.3 g of 6-(3,4,5-trifluorophenyl)naphthalene-2-yl trifluoromethanesulfonate.

reactant | 6-(3,4,5-Trifluorophenyl)-2-hydroxynaphthalene | 25.0 g | FC=1C=C(C=C(C1F)F)C=1C=C2C=CC(=CC2=CC1)O | C16H9F3O
reactant | trifluoromethanesulfonic anhydride | 34.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 12.0 g | N1=CC=CC=C1 | C5H5N
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 48 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 6-(3,4,5-trifluorophenyl)naphthalene-2-yl trifluoromethanesulfonate | 37.3 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=CC(=C(C(=C1)F)F)F)(F)F | C17H8F6O3S
